US05719182
b) Ethyl(RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate
To a solution of ethyl(1RS)-1-hydroxy-1-(2-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate (100 mg, 0.23 mmol) in CH2Cl2 (5 ml) was added triethylsilane (32 mg, 0.28 mmol), followed by boron trifluoride etherate (0.13 ml, 1.05 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 10 min, at which time was added slowly 3M HCl. The mixture was extracted with EtOAc. The organic extract was washed successively with H2O, 5% aqueous NaHCO3, H2O and saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo to provide the title compound (91 mg, 96%) as a mixture of Δ1 and Δ2 double bond isomers.

reactant | ethyl(1RS)-1-hydroxy-1-(2-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | 0.23 mmol, 100 mg | OC1(C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC)C2=C(C=CC=C2)OC | C26H22O6
reactant | triethylsilane | 0.28 mmol, 32 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 1.05 mmol, 0.13 ml | B(F)(F)F.CCOCC
reactant | HCl | 3M | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | Ethyl(RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | 91 mg, 96% | COC1=C(C=CC=C1)C1C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H22O5
